US09399647B2
The 2-hydroxymethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-ol (4.5 g, 0.019 mol) in 10 ml of acetic anhydride was treated with triethylamine (3.8 g, 0.038 mol) at 0° C., and the mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water and the resulting solid was filtered, washed with water & hexanes, and dried to provide acetic acid 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester (4 g, 75%) as yellow solid. 1H NMR (400 MHz, CDCl3): δ 1.74-1.90 (m, 4H), 2.21 (s, 3H), 2.70-2.80 (m, 2H), 2.95-3.02 (m, 2H), 5.07 (s, 2H), 10.52 (brs, 1H); LC-MS: [M+H]=279.1 m/z.

reactant | 2-hydroxymethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-ol | 0.019 mol, 4.5 g | OCC=1N=C(C2=C(N1)SC1=C2CCCC1)O | C11H12N2O2S
reactant | triethylamine | 0.038 mol, 3.8 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | acetic acid 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester | 4 g, 75% | OC=1C2=C(N=C(N1)COC(C)=O)SC1=C2CCCC1 | C13H14N2O3S
